US09024027B2
Step 6: Preparation of (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide (162)
A mixture of 2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid (78 mg, 0.262 mmol), (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)-phenyl)-2-hydroxyethyl)pyridine 1-oxide (110 mg, 0.262 mmol), DMAP (15.97 mg, 0.131 mmol) and EDC (125 mg, 0.654 mmol) in 15 ml of THF was stirred at room temperature for 2 days. The mixture was diluted with water, acidified and extracted twice with EtOAc; the organic layer was then washed with brine, dried over sodium sulfate and evaporated. The residue was triturated with methanol and the title compound was obtained as a pale yellow solid (39 mg, 0.056 mmol, 21.29% yield, MS/ESI+ 700.11 [MH]+, [αD]=−63.94, c=0.355 in DCM). 1H NMR (300 MHz, DMSO-d6) δ ppm 9.29 (br. s., 1H), 8.47 (s, 2H), 7.86 (dd, 1H), 7.81 (dd, 1H), 7.63 (dd, 1H), 7.19 (d, 1H), 7.10 (d, 1H), 6.97 (dd, 1H), 7.08 (t, 1H), 6.02 (dd, 1H), 4.46 (d, 1H), 4.38 (d, 1H), 3.93 (d, 2H), 3.41 (dd, 1H), 3.30 (s, 3H), 3.24 (dd, 1H), 1.10-1.31 (m, 1H), 0.48-0.66 (m, 2H), 0.27-0.48 (m, 2H)

reactant | 2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetic acid | 0.262 mmol, 78 mg | CS(=O)(=O)NC1=C2C(N(C(C2=CC=C1)=O)CC(=O)O)=O | C11H10N2O6S
reactant | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)-phenyl)-2-hydroxyethyl)pyridine 1-oxide | 0.262 mmol, 110 mg | ClC=1C=[N+](C=C(C1C[C@H](O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C18H17Cl2F2NO4
reactant | EDC | 0.654 mmol, 125 mg
catalyst | DMAP | 0.131 mmol, 15.97 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | water | O | H2O
product | (S)-3,5-dichloro-4-(2-(3-(cyclopropylmethoxy)-4-(difluoromethoxy)phenyl)-2-(2-(4-(methylsulfonamido)-1,3-dioxoisoindolin-2-yl)acetoxy)ethyl)pyridine 1-oxide | 21.29% yield | ClC=1C=[N+](C=C(C1C[C@H](OC(CN1C(C2=CC=CC(=C2C1=O)NS(=O)(=O)C)=O)=O)C1=CC(=C(C=C1)OC(F)F)OCC1CC1)Cl)[O-] | C29H25Cl2F2N3O9S
